.SUBCKT LT1812     1   2   3   4   5
*
* input stage
CIN 1 2 2.0000e-012
GRIN 1 2 1 2 1.0000e-012
Q1 11 2 13 Q1
Q2 12 111 14 Q2
RC1 4 11 1.1630e+003
RC2 4 12 1.1630e+003
RE1 10 13 7.6960e+002
RE2 10 14 7.6960e+002
C1 11 12 6.8424e-013
IEE 3 10 DC 1.7215e-003
D1 10 3 DX
GA 60 99 11 12 8.5984e-004
*
* noise sources
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 2.3270e+004
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 2.3270e+004
GR 99 60 605 606 2.3988e-001
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 2 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 2.1221e-003
ECM 111 1 20 99 5.6234e-005
*
* frequency shaper
RR1 6 60 1.0000e-003
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 1.8659e-012
GB 7 99 6 99 1.4310e+002
R01 7 99 1.7900e+001
R02 7 50 1.0000e-001
R03 50 5 1.8000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 8.9200e-001
VE 54 50 DC -9.9200e-001
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 8.3567e+001
ECLN 92 0 7 50 9.3758e+001
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 4.7139e+000
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 1.2785e-003
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL Q1 PNP (IS=1.0104e-015 BF=929.6 XTB=5.5322e-001 XTI=3.04765e+000 KF=5.0000e-016)
.MODEL Q2 PNP (IS=9.8968e-016 BF=982.7 XTB=5.2770e-001 XTI=2.95235e+000 KF=5.0000e-016)
.MODEL DR D (IS=8.2592e-016 KF=1.8541e-016 RS=0 XTI=0)
.ENDS LT1812
