.SUBCKT LT1881 1 2 3 4 5
*
* input range / phase reversal protection
RIP1 1 111 1.0000e+001
RIP2 2 112 1.0000e+001
DIP1 114 111 DX
DIP2 114 112 DX
VCM 114 4 DC 1.3525e+000
*
* input stage
CIN 111 112 3.9250e-013
GRIN 111 112 111 112 1.0000e-009
M1 11 112 10 10 M1 L=100U W=100U
M2 12 113 10 10 M2 L=100U W=100U
VCME 303 3 DC 1.0000e+000
RD1 303 11 ROVD1 4.4132e+003
RD2 303 12 ROVD2 4.4132e+003
DI1 113 3 DI1
DI2 112 3 DI2
C1 11 12 1.5027e-012
IEE 10 4 DC 4.5319e-004
GSR 10 4 11 12 6.8841e-005
GA 60 99 11 12 2.2660e-004
*
* noise sources
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI
DR2 102 0 DRI
GRI1 99 1 101 102 1.3983e-003
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI
DR4 104 0 DRI
GRI2 99 2 103 104 1.3983e-003
RRu 605 0 6.6375e-001
VRu 605 0 DC 0
FRu 99 60 VRu 1
*
* common mode rejection
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 3.9789e+000
ECM 113 111 20 99 6.3096e-007
*
* frequency shaper
RP1 601 99 5.9091e+003
CP1 60 601 3.8477e-011
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 61 99 1.0000e+004
CP2 61 99 2.6526e-012
GP2 99 6 61 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 1.8056e-009
GB 7 99 6 99 1.4132e+003
R01 7 99 4.9900e+001
R02 7 50 1.0000e-001
R03 50 5 5.0000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 2.1200e-001
VE 54 50 DC -1.1792e-001
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 3.3333e+002
ECLN 92 0 7 50 3.3333e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.2273e+001
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 1.9681e-004
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DVC
DP2 33 4 DVC
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.08 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL M1 NMOS (LEVEL=3 KP=2.7998e-001 VTO=1.000013e+000 KF=3.3177e-027)
.MODEL M2 NMOS (LEVEL=3 KP=2.7998e-001 VTO=9.999875e-001 KF=3.3177e-027)
.MODEL ROVD1 RES (TC1=-7.4566e-006)
.MODEL ROVD2 RES (TC1=7.4566e-006)
.MODEL DI1 D (IS=2.2500e-010 EG=1.1717e-001 XTI=3.0000e+000)
.MODEL DI2 D (IS=7.5000e-011 EG=1.1717e-001 XTI=3.0000e+000)
.MODEL DRI D (IS=8.2592e-016 KF=1.2244e-017 RS=0 XTI=0)
.ENDS LT1881
