.SUBCKT LT1886 1 2 3 4 5
*
* input protection
DIP1 1 2 DX
DIP2 2 1 DX
*
* input stage
CIN 1 2 2.0000e-012
GRIN 1 2 1 2 4.8546e-006
Q1 11 2 13 Q1
Q2 12 111 14 Q2
RC1 3 11 6.4785e+002
RC2 3 12 6.4785e+002
RE1 10 13 1.0000e-001
RE2 10 14 1.0000e-001
C1 11 12 4.0945e-013
IEE 10 4 DC 3.0901e-003
D1 4 10 DX
GA 60 99 11 12 1.5436e-003
*
* noise sources
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 4.7053e+003
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 4.7053e+003
GR 99 60 605 606 1.9476e+001
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 2 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 1.8724e-003
ECM 111 1 20 99 3.1623e-005
*
* frequency shaper
RP1 60 99 1.0000e+004
CP1 60 99 5.3052e-014
GP1 99 6 60 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 1.4701e-011
GB 7 99 6 99 6.0754e+001
R01 7 99 3.3000e+000
R02 7 50 1.0000e-001
R03 50 5 3.4000e+000
R04 5 99 5.9379e+009
VC 53 50 DC 8.9200e-001
VE 54 50 DC -8.9200e-001
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 1.2500e+001
ECLN 92 0 7 50 2.0000e+001
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 3.5791e+000
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 3.9099e-003
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DVC
DP2 33 4 DVC
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.08 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL Q1 NPN (IS=9.8047e-016 BF=973.4 XTB=1.8221e+000 XTI=3.00232e+000 KF=2.1333e-015)
.MODEL Q2 NPN (IS=1.0199e-015 BF=1110.5 XTB=1.8200e+000 XTI=2.99768e+000 KF=2.1333e-015)
.MODEL DR D (IS=8.2592e-016 KF=8.0192e-017 RS=0 XTI=0)
.ENDS LT1886
