.SUBCKT LT1920     1   2   3   4   5   6   7   8
*
XIN1  2  1  7  4  10  LT1920_IN1
XIN2  3  8  7  4  11  LT1920_IN2
XOUT  13  12  7  4  6  LT1920_OUT
*
* input protection
DIP1  2  7  DX
DIP2  3  7  DX
DIP3  4  2  DX
DIP4  4  3  DX
*
* input capacity
CDIFF  2  3  1.6E-12
CCM1  2  4  1.6E-12
CCM2  3  4  1.6E-12
*
* bias current
IBP 0 450 650E-6
RBP 450 0 1.0E3  TC=-0.012
GBP  7  3  450  0  -1.0E-9
IBN 0 451 350E-6
RBN 451 0 1.0E3  TC=-0.012
GBN  7  2  451  0  -1.0E-9
*
*  feedback network
RF1  1  10  24.7E3
CF1  1  10  2.5E-12
RF2  8  11  24.7E3
CF2  8  11  2.5E-12
RCM1  10  12  10E3
RCM2  6    12  10E3
RCM3  11  13  10E3
RCM4  13  5    10E3
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
*
** nested subcircuit: LT1920_IN1
.SUBCKT LT1920_IN1 1   2   3   4   5
*
* input stage
M1 11 2 10 10 M1 L=100U W=100U
M2 12 1 10 10 M2 L=100U W=100U
RD1 3 11 1.2578e+004 TC=-1.1882e-005
RD2 3 12 1.2578e+004 TC=1.1882e-005
C1 11 12 1.0547e-013
IEE 10 4 DC 1.5904e-004
GA 60 99 11 12 7.9520e-005
*
* noise sources
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI
DR2 102 0 DRI
GRI1 99 1 101 102 2.8980e-003
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI
DR4 104 0 DRI
GRI2 99 2 103 104 2.8980e-003
RRu 605 0 6.2
VRu 605 0 DC 0
FRu 99 60 VRu 1
*
* frequency shaper
RR1 6 60 1.0000e-003
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 1.2500e-010
GB 7 99 6 99 3.5605e+003
R01 7 99 1.4900e+001
R02 7 50 1.0000e-001
R03 50 5 6.5000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 1.7
VE 54 50 DC -1.6
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
IP 3 4 DC 1.4096e-004
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL M1 NMOS (LEVEL=3 KP=5.6128e-001 VTO=1.000007e+000 KF=6.6793e-028)
.MODEL M2 NMOS (LEVEL=3 KP=5.6128e-001 VTO=9.99993e-001 KF=6.6793e-028)
.MODEL DRI D (IS=8.2592e-016 KF=6.4148e-018 RS=0 XTI=0)
.ENDS LT1920_IN1
** end nested subcircuit: LT1920_IN1
** nested subcircuit: LT1920_IN2
.SUBCKT LT1920_IN2 1   2   3   4   5
*
* input stage
M1 11 2 10 10 M1 L=100U W=100U
M2 12 1 10 10 M2 L=100U W=100U
RD1 3 11 1.2578e+004 TC=-1.1882e-005
RD2 3 12 1.2578e+004 TC=1.1882e-005
C1 11 12 1.0547e-013
IEE 10 4 DC 1.5904e-004
GA 60 99 11 12 7.9520e-005
*
* noise sources
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI
DR2 102 0 DRI
GRI1 99 1 101 102 2.8980e-003
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI
DR4 104 0 DRI
GRI2 99 2 103 104 2.8980e-003
RRu 605 0 6.2
VRu 605 0 DC 0
FRu 99 60 VRu 1
*
* frequency shaper
RR1 6 60 1.0000e-003
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 1.2500e-010
GB 7 99 6 99 3.5605e+003
R01 7 99 1.4900e+001
R02 7 50 1.0000e-001
R03 50 5 6.5000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 1.7
VE 54 50 DC -1.6
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
IP 3 4 DC 1.4096e-004
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL M1 NMOS (LEVEL=3 KP=5.6128e-001 VTO=1.000007e+000 KF=6.6793e-028)
.MODEL M2 NMOS (LEVEL=3 KP=5.6128e-001 VTO=9.99993e-001 KF=6.6793e-028)
.MODEL DRI D (IS=8.2592e-016 KF=6.4148e-018 RS=0 XTI=0)
.ENDS LT1920_IN2
** end nested subcircuit: LT1920_IN2
** nested subcircuit: LT1920_OUT
.SUBCKT LT1920_OUT 1   2   3   4   5
*
* input stage
M1 11 2 10 10 M1 L=100U W=100U
M2 12 111 10 10 M2 L=100U W=100U
RD1 3 11 1.2578e+004 TC=-1.1882e-005
RD2 3 12 1.2578e+004 TC=1.1882e-005
C1 11 12 1.0546e-013
IEE 10 4 DC 1.5903e-004
GA 60 99 11 12 7.9514e-005
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 2 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 5.3052e-001
*
*140 dB for gain=1000
*ECM 111 1 20 99 0.8E-7
*
* 125 dB for gain=100
ECM 111 1 20 99 5.6234e-007
*
*115 dB for gain=10
*ECM 111 1 20 99 1.778E-6
*
* frequency shaper
RR1 6 60 1.0000e-003
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 1.2500e-010
GB 7 99 6 99 3.5605e+003
R01 7 99 1.4900e+001
R02 7 50 1.0000e-001
R03 50 5 6.5000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 2.2
VE 54 50 DC -2.1
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 3.7037e+002
ECLN 92 0 7 50 3.7037e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.0851e+001
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 1.4097e-004
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL M1 NMOS (LEVEL=3 KP=5.6128e-001 VTO=1.000007e+000 KF=6.6793e-028)
.MODEL M2 NMOS (LEVEL=3 KP=5.6128e-001 VTO=9.99993e-001 KF=6.6793e-028)
.MODEL DRI D (IS=8.2592e-016 KF=6.4148e-018 RS=0 XTI=0)
.ENDS LT1920_OUT
** end nested subcircuit: LT1920_OUT
.ENDS LT1920
